### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Floor): hermite identity for floor function

### PR DESCRIPTION
**Pull request by seewoo5**
---

[Hermite's identity](https://en.wikipedia.org/wiki/Hermite%27s_identity) for floor function. Usually stated over real numbers, but it also holds for "floor field". Initially done by Claude Opus 4.7, and later golfed by myself. Proved as a part of personal project.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Floor/Hermite.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+    rw [hfn] at hsum
+    linarith [hsum]
+  -- Induct on `m`, using `key` in both directions.
+  induction m using Int.induction_on with
+  | zero =>
+    refine Finset.sum_eq_zero fun i hi ↦ ?_
+    rw [zero_add]
+    exact Int.ediv_eq_zero_of_lt (by positivity) (by exact_mod_cast Finset.mem_range.mp hi)
+  | succ k ih => exact (key k).trans (congrArg (· + 1) ih)
+  | pred k ih => grind [key (-k - 1)]
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Floor/Hermite.lean]:
```suggestion
theorem sum_range_add_ediv (m : ℤ) {n : ℕ} (hn : 0 < n) :
    ∑ i ∈ Finset.range n, (m + i) / n = m := by
  rw [← Int.natCast_pos] at hn
  lift m % n to ℕ using Int.emod_nonneg m (by grind) with t ht
  calc
    _ = ∑ i ∈ Finset.range n, (m / n + if n - t ≤ i then 1 else 0) := 
      Finset.sum_congr rfl fun i hi ↦ by
        rw [Int.add_ediv_of_pos hn]
        grind [Nat.div_eq_zero_iff, Nat.mod_eq_of_lt]
    _ = n * (m / n) + (Finset.Ico (n - t) n).card := by
      simp [Finset.sum_add_distrib, -tsub_le_iff_right, -Nat.sub_le_iff_le_add, 
        ← Nat.Ico_zero_eq_range]
    _ = m := by 
      have : m % n < n := Int.emod_lt_of_pos _ hn
      grind [Int.mul_ediv_add_emod, Nat.card_Ico]
```

File: Mathlib/Algebra/Order/Floor/Hermite.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+
+/-- Reduction of a real floor to an integer (Euclidean) division:
+`⌊x + i / n⌋ = (⌊n * x⌋ + i) / n`. -/
+theorem floor_add_natCast_div (x : α) {n : ℕ} (hn : 0 < n) (i : ℕ) :
+    ⌊x + (i : α) / n⌋ = (⌊(n : α) * x⌋ + i) / n := by
+  have hn0 : (n : α) ≠ 0 := by exact_mod_cast hn.ne'
+  rw [show x + (i : α) / n = ((n : α) * x + i) / n by field_simp,
+    Int.floor_div_natCast, Int.floor_add_natCast]
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Floor/Hermite.lean]:
```suggestion
theorem floor_add_natCast_div (x : α) {n : ℕ} (hn : 0 < n) (i : ℕ) :
    ⌊x + i / n⌋ = (⌊n * x⌋ + i) / n := by
  rw [← Int.floor_add_natCast, ← Int.floor_div_natCast]
  field_simp
```

Comment (b-mehta) [reply Mathlib/Algebra/Order/Floor/Hermite.lean]: I think this lemma might be better off being private

File: Mathlib/Algebra/Order/Floor/Hermite.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+    _ = m := by
+      have : m % n < n := Int.emod_lt_of_pos _ hn
+      grind [Int.mul_ediv_add_emod, Nat.card_Ico]
+
+/-- Reduction of a real floor to an integer (Euclidean) division:
+`⌊x + i / n⌋ = (⌊n * x⌋ + i) / n`. -/
+private theorem floor_add_natCast_div (x : α) {n : ℕ} (hn : 0 < n) (i : ℕ) :
+    ⌊x + i / n⌋ = (⌊n * x⌋ + i) / n := by
+  rw [← Int.floor_add_natCast, ← Int.floor_div_natCast]
+  field_simp
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Floor/Hermite.lean]: why not just inline this in the below proof?

Comment (seewoo5) [reply Mathlib/Algebra/Order/Floor/Hermite.lean]: Makes sense, I just updated.

**Comment by ocfnash** [comment]
Thanks!

bors merge

**Comment by ocfnash** [comment]
bors merge
